US06307047B1
2-(3,4-Difluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 459, substituting 2-(3,4-difluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3,4-difluorophenyl)-4-(2-hydroxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 300 mg, 50%). mp 181-181° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.04 (s, 6H), 1.72 (t, J=6 Hz, 2H), 4.43 (s, 1H), 4.53 (t, J=6 Hz, 2H), 7.49 (s, 2H), 7.53 (m, 1H), 7.63 (ddd, J=9 Hz, J=9 Hz, J=1.5 Hz, 1H), 7.79 (ddd, J=9 Hz, J=9 Hz, J=3 Hz, 1H), 7.83 (d, J=9 Hz, 1H), 7.95 (d, J=9 Hz, 2H), 8.19 (s, 1H); MS (DCI/NH3) m/z 466 (M+H)+. Anal. calcd. for C21H21F2N2O5S: C, 54.12; H, 4.66; N, 8.81. Found: C, 54.19; H, 4.55; N, 9.03.

reactant | 2-(3,4-difluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC(C)(C)O)C1=CC=C(C=C1)S(=O)(=O)C | C22H22F2N2O5S
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(3-hydroxy-3-methyl-1-butoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC(C)(C)O)C1=CC=C(C=C1)S(=O)(=O)N | C21H21F2N3O5S
